US08492378B2
2-(2,3-dihydro-1-benzofuran-5-yl)-5-[[4-(methylthio)-3-(trifluoromethyl)benzyl]thio]-1,3,4-oxadiazole
In the same manner as in Example 7 and using 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol instead of 5-(1H-indazol-5-yl)-1,3,4-oxadiazole-2-thiol and 4-(methylthio)-3-(trifluoromethyl)benzyl chloride instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 89%) was obtained as colorless crystals.

reactant | 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)S | C10H8N2O2S
reactant | 4-(methylthio)-3-(trifluoromethyl)benzyl chloride | CSC1=C(C=C(CCl)C=C1)C(F)(F)F | C9H8ClF3S
product | 2-(2,3-dihydro-1-benzofuran-5-yl)-5-[[4-(methylthio)-3-(trifluoromethyl)benzyl]thio]-1,3,4-oxadiazole | yield 89% | O1CCC2=C1C=CC(=C2)C=2OC(=NN2)SCC2=CC(=C(C=C2)SC)C(F)(F)F | C19H15F3N2O2S2
